US04920125
A 250 Ml three-neck round bottom flask, equipped with a magnetic stirrer, reflux condenser, addition funnel, and gas inlet, was charged with 0.59 g (1.1 eq) of 60% sodium hydride and flame dried under a nitrogen atmosphere. After cooling to room temperature, mineral oil was removed by washing twice with anhydrous tetrahydrofuran and 100 mL of anhydrous tetrahydrofuran were then added. This mixture was brought to 0° C. on an ice bath and an anhydrous tetrahydrofuran solution of 1.52 g (1.0 eq) of ethyl cyanoacetate was added dropwise under a nitrogen atmosphere with moderation of evolution of hydrogen gas. The mixture was stirred vigorously while warming to room temperature until gas evolution was no longer observed. To this mixture, an anhydrous tetrahydrofuran solution of 3.92 g (1.0 eq) of methyl 4-(4-methylsulfonyloxybutyl)thien-2-ylcarboxylate was added dropwise. The resulting mixture was refluxed with stirring under a nitrogen atmosphere for 24 hours. After cooling to room temperature, solvent was removed under reduced pressure and diethyl ether was added to the residue. The organic extract was washed with water, brine, dried (magnesium sulfate), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography eluting with 1:1 ethyl acetate:hexanes. Fractions homogeneous by thin layer chromatography for the major component were combined and concentrated under reduced pressure to give 1.98 g (47.7%) of pure methyl 4-(5-cyano-5-carbethoxypentyl)thien-2-carboxylate as a clear oil; IR (KBr, cm-1): 1746, 1711, 1444, 1260, 1225, 1220, 1207; UV (Ethanol): μmax =280 nm (epsilon=5940), 248 nm (epsilon=9290); 1H NMR (CDCl3, 300 MHz) delta 7.60 (s, 1H), 7.15 (s, 1H), 4.23, (q, J=7.2 Hz, 2H), 3.85 (s, 3H), 3.47 (t, J=6.9 Hz, 1H), 2.62 (t, J=7.5 Hz, 2H), 1.95 (q, J=7.3 Hz, 2H), 1.62-1.69 (m, 2H), 1.48-1.47 (m, 2H), 1.27-1.33 (m, 3H); MASS: M+ =309 (FD).

reactant | sodium hydride | 0.59 g, 1.1 eq | [H-].[Na+]
reactant | ethyl cyanoacetate | 1.52 g, 1.0 eq | C(#N)CC(=O)OCC | C5H7NO2
reactant | hydrogen | [H][H] | H2
reactant | methyl 4-(4-methylsulfonyloxybutyl)thien-2-ylcarboxylate | 3.92 g, 1.0 eq | CS(=O)(=O)OCCCCC=1C=C(SC1)C(=O)OC | C11H16O5S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 4-(5-cyano-5-carbethoxypentyl)thien-2-carboxylate | 1.98 g, 47.7% | C(#N)C(CCCCC=1C=C(SC1)C(=O)OC)C(=O)OCC | C15H19NO4S
